US03998850
To a suspension of 12.4 g (0.51 g-atoms) magnesium turnings in 190 ml tetrahydrofuran under a nitrogen atmosphere there is added 10 ml. of a solution of 103 g (0.424 mole) of 4'-bromoacetophenone ethylene ketal in 130 ml dry tetrahydrofuran. The reaction is started and the remainder of the bromoacetophenone ethylene ketal solution is added dropwise at a rate that maintains a moderate reflux. After the addition is complete, the mixture is refluxed for one hour. The resulting Grignard solution is added dropwise to a cold solution of 51.1 g (0.424 mole) pivaloyl chloride in 120 ml of dry tetrahydrofuran at a rate that maintains the temperature at 0° C. After addition the resulting solution is stirred for 1 hour at -60° C and then 1 additional hour at -10° C. The mixture is then poured onto ice and extracted with ether, the ether is washed with 2N sodium hydroxide and salt water, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The resulting residue is triturated with petroleum ether to give 4'-(2-methyl-2-dioxolanyl)pivalophenone, m.p. 75°-82° C.

reactant | magnesium | 12.4 g | [Mg] | Mg
reactant | 4'-bromoacetophenone ethylene ketal | 0.424 mole, 103 g | C1COC(C)(C2=CC=C(C=C2)Br)O1 | C10H11BrO2
reactant | bromoacetophenone ethylene ketal | C1COC(CBr)(C2=CC=CC=C2)O1 | C10H11BrO2
reactant | pivaloyl chloride | 0.424 mole, 51.1 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 4'-(2-methyl-2-dioxolanyl)pivalophenone | CC1(OCCO1)C1=CC=C(C=C1)C(C(C)(C)C)=O | C15H20O3
